* An H-Bridge to be driven with phase-shift PWM


.include models/OptiMOS6_200V_Spice.lib

.subckt switch_mosfet pos control neg
+                     params: Vg=12 Rg=5
	E1 gate_res neg control 0 {Vg}
	R1 gate_res gate {Rg}
	X´M1 pos gate neg IPF067N20NM6_L0
.ends

.subckt switch_ideal pos control neg
+                     params: Ron=6.7m Roff=10Meg
	S1 pos neg control 0 RON={Ron} ROFF={Roff} VT=0.5 VH=0.1
	D1 neg pos dmodel
	.model dmodel D RON=1m
.ends

.subckt switch_model pos control neg
	X1 pos control neg switch_ideal
.ends

.subckt driver_hbridge
+                    pwm_a pwm_b pwm_c pwm_d
+                    out_pos out_neg pwm_eq
+                    vcc

	Lf vcc vhs 110µ RSER=6.18m
	Lcfp vhs cf 20n
	Cf cf 0 100µ RSER=0.5m
	Cd vhs 0 1000u RSER=1
	
	Xa vhs pwm_a out_pos switch_model
	Xb out_pos pwm_b 0 switch_model	

	Xc vhs pwm_c out_neg switch_model
	Xd out_neg pwm_d 0 switch_model	
		
	Rsh1 0 out_pos 1Meg
	Rsh2 0 out_neg 1Meg

	B1 pwm_eq 0 V = V(pwm_a) - V(pwm_c)
.ends
